US08026236B2
A: 6-(4-(2-(1-(2-chloroacetyl)piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile
Chloroacetylchloride (0.323 ml) in 1 ml DCM was added at 0° C. to the suspension of 1-methyl-6-(4-(2-(piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (free base) in THF/DCM (1:1, 40 ml) with DIPEA (1.7 ml). The mixture was stirred at rt for 2 hours, then 10 ml methanol added, followed by 200 ml ethyl acetate. The mixture was washed with water (100 ml), sodium bicarbonate (100 ml), dried, filtered, solvent removed, residue was columned on silica gel using 100:5 DCM/MeOH as eluant to give 0.7 g product as off white solid. 1H NMR (CD3OD) δ: 8.25 (d, 1H), 8.22 (s, 1H), 8.10 (s, 1H), 7.87 (s, 1H), 7.10 (d, 1H), 4.58 (m, 1H), 4.21 (t, 2H), 4.09 (d, 1H), 4.08 (d, 1H), 3.99 (s, 3H), 3.90 (m, 1H), 3.12 (t, 1H), 2.65 (t, 1H), 2.2 (m, 1H), 1.8-2.0 (m, 4H), 1.1-1.4 (m, 2H).

reactant | Chloroacetylchloride | 0.323 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-methyl-6-(4-(2-(piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCC2CCNCC2)C(F)(F)F)C#N | C22H22F3N5O
reactant | DIPEA | 1.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanol | 10 ml | CO | CH4O
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | THF DCM | 40 ml | C1CCOC1.C(Cl)Cl
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 6-(4-(2-(1-(2-chloroacetyl)piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.7 g | ClCC(=O)N1CCC(CC1)CCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C24H23ClF3N5O2
